US06995179B2
1) Synthesis of 5-(3-(4-(2-cyanoethyloxycarbonyl)phenyl)-2-propene-1-yl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate:
307 mg (0.77 mmol) of 5-(2-propene-1-yl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate, 278 mg (0.92 mmol) of 2-cyanoethyl 4-iodobenzoate, 19 mg(0.08 mmol) of palladium acetate and 0.14 ml (1.0 mmol) of triethylamine were heated at 100° C. under stirring in 5 ml of DMF overnight. Water was added to the reaction mixture. After the extraction with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=2/1) to obtain the title compound.

reactant | 5-(2-propene-1-yl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.77 mmol, 307 mg | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCC=C)C)C)C(=O)OCCC#N | C21H21ClN2O4
reactant | 2-cyanoethyl 4-iodobenzoate | 0.92 mmol, 278 mg | IC1=CC=C(C(=O)OCCC#N)C=C1 | C10H8INO2
reactant | triethylamine | 1.0 mmol, 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.08 mmol, 19 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(3-(4-(2-cyanoethyloxycarbonyl)phenyl)-2-propene-1-yl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCC=CC1=CC=C(C=C1)C(=O)OCCC#N)C)C)C(=O)OCCC#N | C31H28ClN3O6
